### ISSUE TITLE
Cannot unfold field definition marked as `private`

### ISSUE THREAD

**Issue by datokrat** [leanprover/lean4#9872]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When assigning the fields of a structure, the `private` modifier can be used. It creates unexposed helper declarations. In some situations, it is not possible to unfold them, making them effectively opaque.

### Steps to Reproduce

1. Check out the Lake project in this branch: https://github.com/datokrat/lean-bug-reproductions/tree/bugs1
2. Open [`Reproductions/UnfoldingPrivate.lean`](https://github.com/datokrat/lean-bug-reproductions/blob/bugs1/Reproductions/UnfoldingPrivate.lean) and observe that the `_private_` constant cannot be unfolded.

Here's the code:

```lean
module

public noncomputable instance instBEq {α : Type u} [LE α] [DecidableLE α] :
    BEq α where
  beq _ _ := private true -- private (a ≤ b ∧ b ≤ a : Bool)

/--
error: Type mismatch
  True.intro
has type
  True
but is expected to have type
  instBEq._private_1 = true
-/
#guard_msgs in
private theorem eq_of_beq [LE α] [DecidableLE α] (a b : α) : a == b := by
  simp only [BEq.beq]
  exact True.intro

/--
error: trying to realize `_private.Lean.Environment.0.Lean.Environment.RealizeConstKey` value but `enableRealizationsForConst` must be called for 'instBEq._private_1' first
---
error: unsolved goals
α : Type u_1
inst✝¹ : LE α
inst✝ : DecidableLE α
a b : α
⊢ instBEq._private_1 = true
-/
#guard_msgs in
private theorem eq_of_beq' [LE α] [DecidableLE α] (a b : α) : a == b := by
  simp only [BEq.beq, instBEq._private_1]
```

**Expected behavior:**

The helper declaration should be reducible or even semireducible in public contexts. Ideally, (d)simp should unfold it automatically. At least, there needs to be some way to prove something about the content of `private`.

Alternatively, `private` should only be allowed for propositions and forbidden for other expected types.

**Actual behavior:**

Cannot unfold at all, there seems to be no way to finish my proof.

### Versions

```
Lean 4.23.0-nightly-2025-08-11
Target: arm64-apple-darwin23.6.0 macOS
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by tydeu** [comment]
The following version of the proof works:

```lean
private theorem eq_of_beq [LE α] [DecidableLE α] (a b : α) : a == b := by
  simp only [BEq.beq]
  unfold instBEq._private_1
  rfl
```

It appears `simp` is handling the unfolding of `instBEq._private_1` incorrectly.

**Comment by datokrat** [comment]
Even this works:

```lean
private theorem eq_of_beq [LE α] [DecidableLE α] (a b : α) : a == b := by
  rfl
```

Oof, now I see why `exact True.intro` did not work. We need a term of type `true = true` not `True`. So this bug indeed seems to be related to `simp`.
